US06875784B2
N-({(5S)-3-[3,5-difluoro-4-(6-oxa-3-azabicyclo[3.1.0]hex-3-yl)phenyl]-2-oxo-1,3-oxazolidin-5-yl}methyl acetamide
Lithium butoxide solution (1.9 mL of a 1.0 M THF solution, 1.9 mmol) was added to a cooled (0° C.) solution of [3,5-difluoro-4-(6-oxa-3-aza-bicyclo[3.1.0]hex-3-yl)-phenyl]-carbamic acid benzyl ester (0.22 g, 0.64 mmol) in DMF (0.43 mL) and MeOH (0.05 mL, 1.2 mmol). Solid (S)-acetic acid 2-acetylamino-1-chloromethyl-ethyl ester (0.25 g, 1.27 mmol) was then added and the solution allowed to warm to room temperature and stirred for 16 h. The reaction mixture was quenched with sat. NH4Cl and extracted with ethyl acetate. The organic layers were washed with water, brine and dried (MgSO4). The title compound was isolated by silica gel chromatography (0-3% MeOH/dichloromethane).

reactant | Lithium butoxide | [O-]CCCC.[Li+]
reactant | [3,5-difluoro-4-(6-oxa-3-aza-bicyclo[3.1.0]hex-3-yl)-phenyl]-carbamic acid benzyl ester | 0.64 mmol, 0.22 g | C(C1=CC=CC=C1)OC(NC1=CC(=C(C(=C1)F)N1CC2OC2C1)F)=O | C18H16F2N2O3
reactant | MeOH | 1.2 mmol, 0.05 mL | CO | CH4O
reactant | (S)-acetic acid 2-acetylamino-1-chloromethyl-ethyl ester | 1.27 mmol, 0.25 g | C(C)(=O)NC[C@@H](CCl)OC(C)=O | C7H12ClNO3
solvent | DMF | 0.43 mL | CN(C)C=O | C3H7NO
solvent | THF | 1.0 M | C1CCOC1 | C4H8O
product | {(5S)-3-[3,5-difluoro-4-(6-oxa-3-azabicyclo[3.1.0]hex-3-yl)phenyl]-2-oxo-1,3-oxazolidin-5-yl}methyl acetamide | FC=1C=C(C=C(C1N1CC2OC2C1)F)N1C(O[C@H](C1)CCC(=O)N)=O | C16H17F2N3O4
